US04442115
A solution of 3'-acetyl-2'-hydroxy-1-(4-methoxybenzyl)-5'-nitro-1H-tetrazole-5-carboxanilide (2.06 g) in a solution of hydrogen chloride in ethanol (0.36 N; 60 ml) was hydrogenated at atmospheric pressure and at 25° C., using a 5% w/w palladium on charcoal catalyst (0.5 g), during a period of 150 minutes. The catalyst was then filtered off and the filtrate was evaporated in vacuo. The resulting residue was recrystallised from ethanol to give 3'-acetyl-5'-amino-2'-hydroxy-1-(4-methoxybenzyl)-1H-tetrazole-5-carboxanilide hydrochloride (1.2 g), in the form of colourless crystals, m.p. 225° C. (with decomposition).

reactant | 3'-acetyl-2'-hydroxy-1-(4-methoxybenzyl)-5'-nitro-1H-tetrazole-5-carboxanilide | 2.06 g | C(C)(=O)C=1C(=C(NC(=O)C2=NN=NN2CC2=CC=C(C=C2)OC)C=C(C1)[N+](=O)[O-])O | C18H16N6O6
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 0.36 N, 60 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 3'-acetyl-5'-amino-2'-hydroxy-1-(4-methoxybenzyl)-1H-tetrazole-5-carboxanilide hydrochloride | 1.2 g | Cl.C(C)(=O)C=1C(=C(NC(=O)C2=NN=NN2CC2=CC=C(C=C2)OC)C=C(C1)N)O | InChI=1S/C18H18N6O4.ClH/c1-10(25)14-7-12(19)8-15(16(14)26)20-18(27)17-21-22-23-24(17)9-11-3-5-13(28-2)6-4-11;/h3-8,26H,9,19H2,1-2H3,(H,20,27);1H
